US05856273
Step 1 Preparation of 2-mercapto-N-(3-methoxyphenyl)acetamide
Freshly distilled 3-methoxyaniline (7.6615 g) was dissolved in toluene (35 ml) and treated with thioglycollic acid (4.75 ml). The mixture was heated under reflux, and water collected in an Dean and Stark apparatus overnight. Upon cooling to room temperature crystals formed which were collected at the pump. The title compound (which was sufficiently pure for the next reaction) was obtained as a white solid, yield 9.233 g.

reactant | 3-methoxyaniline | 7.6615 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | thioglycollic acid | 4.75 ml | C(C(=O)O)S | C2H4O2S
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2-mercapto-N-(3-methoxyphenyl)acetamide | SCC(=O)NC1=CC(=CC=C1)OC | C9H11NO2S
